US05814654
To dimethyl sulfoxide (5 ml) was added 60% sodium hydride (0.13 g, 3.17 mmol), followed by stirring at 75° C. for 45 minutes. After the reaction mixture was cooled to room temperature, a solution of methyltriphenylphosphonium iodide (1.28 g, 3.17 mmol) in dimethyl sulfoxide (10 ml) was added thereto and the resulting mixture was stirred at 60° C. for 10 minutes. The reaction mixture was re-cooled to room temperature, after which ethyl 3,4,5,6-tetrahydro -1-methyl-6-oxo-1H-cyclohepta[cd]indole-2-carboxylate (0.86 g, 3.17 mmol) was added thereto and the resulting mixture was allowed to stand overnight at room temperature. The reaction mixture was poured into a 5% aqueous sodium chloride solution, followed by extraction with ethyl acetate (twice). The extract solution was washed twice with a 5% aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by a silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/99) to obtain ethyl 3,4,5,6-tetrahydro-1-methyl-6-methylene-1-H-cyclohepta[cd]indole-2-carboxylate (0.36 g).

reactant | sodium hydride | 3.17 mmol, 0.13 g | [H-].[Na+]
reactant | methyltriphenylphosphonium iodide | 3.17 mmol, 1.28 g | [I-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | ethyl 3,4,5,6-tetrahydro -1-methyl-6-oxo-1H-cyclohepta[cd]indole-2-carboxylate | 3.17 mmol, 0.86 g | CN1C(=C2C=3C(=CC=CC13)C(CCC2)=O)C(=O)OCC | C16H17NO3
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
product | ethyl 3,4,5,6-tetrahydro-1-methyl-6-methylene-1-H-cyclohepta[cd]indole-2-carboxylate | 0.36 g | CN1C(=C2C=3C(=CC=CC13)C(CCC2)=C)C(=O)OCC | C17H19NO2
